US08441002B2
60 g of 3-n-hexylthiophene was dissolved in 400 ml of dimethylformamide, and to this, 50 g of N-bromosuccinimide was added. The resulting solution was stirred at room temperature for 4 hours under a nitrogen atmosphere. 200 ml of water and 200 ml of hexane were added to the resulting solution to separate the organic layer. The organic layer was washed with 200 ml of water and dried over magnesium sulfate, and then the solvent was distilled off under reduced pressure with a rotary evaporator to obtain 60 g of 2-bromo-3-n-hexylthiophene.

reactant | 3-n-hexylthiophene | 60 g | C(CCCCC)C1=CSC=C1 | C10H16S
reactant | N-bromosuccinimide | 50 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 200 ml | O | H2O
reactant | hexane | 200 ml | CCCCCC | C6H14
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 2-bromo-3-n-hexylthiophene | 60 g | BrC=1SC=CC1CCCCCC | C10H15BrS
